US07498337B2
5-mesityl-1H-pyrrole-3-carbaldehyde
A mixture of 5-bromo-1H-pyrrole-3-carbaldehyde (0.87 g), 2,4,6-trimethylphenylboronic acid (3.28 g), cesium carbonate (13.0 g), tri-tert-butylphosphine (0.10 g), tris(dibenzylideneacetone)dipalladium (0) (0.23 g) and mesitylene (200 mL) was stirred with heating under reflux for 5 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=3:1) to give the title compound as a brown amorphous form (yield 0.30 g, 28%).

reactant | 5-bromo-1H-pyrrole-3-carbaldehyde | 0.87 g | BrC1=CC(=CN1)C=O | C5H4BrNO
reactant | 2,4,6-trimethylphenylboronic acid | 3.28 g | CC1=C(C(=CC(=C1)C)C)B(O)O | C9H13BO2
reactant | cesium carbonate | 13.0 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tri-tert-butylphosphine | 0.10 g | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | mesitylene | 200 mL | C1(=CC(=CC(=C1)C)C)C | C9H12
catalyst | tris(dibenzylideneacetone)dipalladium | 0.23 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Water | O | H2O
product | 5-mesityl-1H-pyrrole-3-carbaldehyde | C1(=C(C(=CC(=C1)C)C)C1=CC(=CN1)C=O)C | C14H15NO
